US20010047031A1
(RS)-4-(1-Piperidin-4-yl-pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid (53.8 mg, 0.1 mmol), Et3N (50.5 mg, 0.5 mmol), phenylboronic acid (36.6 mg, 0.3 mmol) and copper(II) acetate (36 mg, 0.2 mmol) were suspensed in CH2Cl2 (2 ml). After 3.5 hours stirring at room temperature, the reaction mixture was directly chromatographed over silica gel (CH2Cl2-MeOH 98:2 then 95:5) to provide (RS)-4-[1-(1-phenyl-piperidin-4-yl)-pyrrolidine-3-sulfonyl]-phenol (10 mg, 26%) as a white foam, MS: m/e=387.3 (M+H+).

reactant | (RS)-4-(1-Piperidin-4-yl-pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid | 0.1 mmol, 53.8 mg | FC(C(=O)O)(F)F.N1CCC(CC1)N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | Et3N | 0.5 mmol, 50.5 mg | CCN(CC)CC | C6H15N
reactant | phenylboronic acid | 0.3 mmol, 36.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 0.2 mmol, 36 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (RS)-4-[1-(1-phenyl-piperidin-4-yl)-pyrrolidine-3-sulfonyl]-phenol | 10 mg, 26% | C1(=CC=CC=C1)N1CCC(CC1)N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C21H26N2O3S
